3
R0100 1 0 2
R0201 2 1 10
R0302 3 2 1
L0300 3 0 0.02
C0200 2 0 0.01
C0300 3 0 0.05
I0200 2 0 SIN 0 2 20 0 0 0 0
I0300 3 0 DC 1
V0100 1 0 SIN 5 10 100 0 0 0 0
.TRAN 10 0.1
